US07056917B2
(I) 2-Hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4H-pyrido[1,2-a]pyrimidin-4-one
4-[(4-Isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinamine (378 mg, 1.52 mmol) dissolved in xylene (15 ml) was added with trichlorophenyl malonate (750 mg, 1.62 mmol) and refluxed by heating at 140° C. for 1 hour and 30 minutes. The reaction solution was returned to room temperature and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=100:1→80:1→50:1) to obtain 307 mg (64%) of the title compound.

reactant | 4-[(4-Isopropyl-1,3-thiazol-2-yl)methoxy]-2-pyridinamine | 1.52 mmol, 378 mg | C(C)(C)C=1N=C(SC1)COC1=CC(=NC=C1)N | C12H15N3OS
reactant | trichlorophenyl malonate | 1.62 mmol, 750 mg | C(CC(=O)[O-])(=O)OC1=C(C(=C(C=C1)Cl)Cl)Cl
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Hydroxy-8-[(4-isopropyl-1,3-thiazol-2-yl)methoxy]-4H-pyrido[1,2-a]pyrimidin-4-one | 307 mg, 64% | OC=1N=C2N(C(C1)=O)C=CC(=C2)OCC=2SC=C(N2)C(C)C | C15H15N3O3S
